US08440658B2
To a solution of 3-chloro-1-phenylpropan-1-one (5.0 g, 0.03 mol) and K2CO3 (12.4 g, 0.09 mol) in acetonitrile (100 mL) was added 2-methylpropan-2-amine (4.38 g, 0.06 mol), and the reaction mixture was stirred at rt overnight. The solution was filtered, and the filtrate was concentrated to give 3-(tert-butylamino)-1-phenylpropan-1-one (5.89 g, 96%). 1H NMR (CDCl3): 1.01-1.10 (s, 9H), 1.42-1.56 (s, 1H), 2.86-2.92 (m, 2H), 3.09-3.14 (m, 2H), 7.34-7.43 (m, 2H), 7.44-7.51 (m, 1H), 7.85-7.91 (m, 2H).

reactant | 3-chloro-1-phenylpropan-1-one | 0.03 mol, 5.0 g | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | K2CO3 | 0.09 mol, 12.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methylpropan-2-amine | 0.06 mol, 4.38 g | CC(C)(C)N | C4H11N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 3-(tert-butylamino)-1-phenylpropan-1-one | 5.89 g, 96% | C(C)(C)(C)NCCC(=O)C1=CC=CC=C1 | C13H19NO
